US05556853
In substantially the same manner as in Example 5, morpholine (319 μl) was condensed with Boc-3-(2-thienyl)-L-alanine (900 mg, manufactured by Bachem Fein Chemikalien AG, Switzerland) to give N-[Boc-3-(2-thienyl)-L-alanyl]morpholine (1.13 g) as a colorless oily product (yield quantitative). After Boc group elimination with 4N HCl/ethyl acetate, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate as obtained in Reference Example 8 (315 mg) to yield the title compound (compound 73; 563 mg) as a white powder (yield 75%).

reactant | morpholine | 319 μl | N1CCOCC1 | C4H9NO
reactant | Boc-3-(2-thienyl)-L-alanine | 900 mg | C(=O)(OC(C)(C)C)N[C@@H](CC=1SC=CC1)C(=O)O | C12H17NO4S
product | N-[Boc-3-(2-thienyl)-L-alanyl]morpholine | 1.13 g | C(=O)(OC(C)(C)C)N[C@@H](CC=1SC=CC1)C(=O)N1CCOCC1 | C16H24N2O4S
